US06858651B2
A solution of 44.3 mg (0.1 mmol) of trans-N-[4-(Methyl-{4-[3-(methyl-propyl-amino)-prop-1-ynyl]-cyclohexyl}-sulfamoyl)-phenyl]-acetamide in 5 ml MeOH was treated with 0.37 ml (2 mmol) of sodium methylate (5.4 M in MeOH) and heated at 70° C. for 30 h. The solvent was evaporated and the residue extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried with Na2SO4, filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 97:3) gave 31 mg (82%) of pure trans-4-Amino-N-methyl-N-{4-[3-(methyl-propyl-amino)-prop-1-ynyl]-cyclohexyl}-benzenesulfonamide, MS: 378 (MH+).

reactant | trans-N-[4-(Methyl-{4-[3-(methyl-propyl-amino)-prop-1-ynyl]-cyclohexyl}-sulfamoyl)-phenyl]-acetamide | 0.1 mmol, 44.3 mg | CN(S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)[C@@H]1CC[C@H](CC1)C#CCN(CCC)C | C22H33N3O3S
reactant | sodium methylate | 2 mmol, 5.4 M, 0.37 ml | C[O-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | trans-4-Amino-N-methyl-N-{4-[3-(methyl-propyl-amino)-prop-1-ynyl]-cyclohexyl}-benzenesulfonamide | 31 mg, 82% | NC1=CC=C(C=C1)S(=O)(=O)N([C@@H]1CC[C@H](CC1)C#CCN(CCC)C)C | C20H31N3O2S
